data/mechanism_extracts/Angew/10.1002_ange.201913332.json
{"doi": "10.1002_ange.201913332", "journal": "Angew", "is_review": false, "rxn_class_summary": "Electrochemical four-component 1,2-difunctionalization of arylalkenes with carboxylic acids, acetonitrile, and alcohols to form functionalized imides via a cascade Mumm rearrangement", "mechanism_family": ["radical_cation", "radical_polar_crossover", "paired_electrolysis", "direct_SET"], "electrochemical_role": "Anodic single-electron oxidation of styrene generates a radical cation; cathodic reduction of methanol (and of PhCOOH) generates methoxide (and benzoate) nucleophiles plus H2; a second anodic oxidation converts the alpha-methoxy benzyl radical to a benzyl cation", "key_intermediates": [{"name": "styrene radical cation (A)", "smiles": "[CH2][CH+]c1ccccc1", "role": "reactive"}, {"name": "alpha-methoxybenzyl (carbon-centered) radical (B)", "smiles": "COC([CH2])c1ccccc1", "role": "reactive"}, {"name": "alpha-methoxybenzyl carbocation (C)", "smiles": "COC([CH+])c1ccccc1", "role": "transient"}, {"name": "nitrilium ion / Ritter-type cation from CH3CN trapping (D)", "smiles": "COC(c1ccccc1)C[N+]#CC", "role": "transient"}, {"name": "O-acyl isoamide (E), Mumm precursor", "smiles": "COC(c1ccccc1)CN=C(C)OC(=O)c1ccc(C#N)cc1", "role": "transient"}, {"name": "imide product 3aa (after Mumm rearrangement)", "smiles": "COC(c1ccccc1)CN(C(C)=O)C(=O)c1ccc(C#N)cc1", "role": "reactive"}], "electron_flow": "At the anode, styrene is oxidized by SET to a radical cation, which is trapped by methoxide (generated by cathodic reduction of MeOH) to give a C-radical; a second anodic SET produces a benzyl cation that is intercepted by CH3CN (Ritter) to form a nitrilium; capture by cathodically generated benzoate gives an O-acyl isoamide that undergoes intramolecular Mumm rearrangement to the imide.", "rate_determining_step": "Neither MeO incorporation nor CH3CN incorporation is rate-determining (parallel CH3OH/CD3OD and CH3CN/CD3CN experiments both gave 1:1 product ratios); likely the initial anodic oxidation of styrene", "probe_reagents": [{"name": "CD3OD (vs CH3OH)", "smiles": "[2H]C([2H])([2H])O[2H]", "purpose": "KIE", "observation": "Parallel CH3OH/CD3OD reaction gave 3ao/d3-3ao = 1:1 (84% combined), indicating MeO incorporation is not rate-determining"}, {"name": "CD3CN (vs CH3CN)", "smiles": "[2H]C([2H])([2H])C#N", "purpose": "KIE", "observation": "Parallel CH3CN/CD3CN reaction gave 3ao/d3-3ao = 1:1 (82% combined), indicating CH3CN incorporation is not rate-determining"}, {"name": "[18O]-4-cyanobenzoic acid", "smiles": "[18OH]C(=O)c1ccc(C#N)cc1", "purpose": "isotope_label", "observation": "18O is incorporated into the imide carbonyl of [18O]-3ak, confirming the acid oxygen ends up in the imide and supporting a Mumm rearrangement from an O-acyl isoamide"}, {"name": "cyclic voltammetry", "smiles": null, "purpose": "redox_probe", "observation": "Styrene has the lowest oxidation potential (1.60 V vs SCE) versus MeOH and benzoic acid (no peak 0-2.5 V), supporting initial SET oxidation of styrene"}], "evidence_types_used": ["H/D_labeling", "product_isotope_distribution", "cyclic_voltammetry", "KIE"], "evidence_strength": "medium", "notes": "The paper highlights generation of an unstable O-acyl isoamide (E) as a rare in situ precursor for a 1,3-(O→N) acyl Mumm rearrangement. Authors compare against alternative literature electrochemical alkene difunctionalization manifolds (Scheme 1, paths a-f: external-oxidant radical addition, direct anodic oxidation of substrate vs alkene, and mediator-based variants); the favored pathway here is direct anodic oxidation of the alkene to the radical cation (path d-type) coupled with cathodic generation of nucleophiles (paired electrolysis)."}
